US05760050
3-Benzyl-8,10-dihydroxy-9-methyl-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one hydrochloride
Prepared by the procedure of Example 1 from 3,5-dihydroxy-4-methylphenol and ethyl 1-benzyl-4-oxo-3-piperidinecarboxylate hydrochloride. The crude product was converted to the hydrochloride salt. Yield 24%; mp 293°-299° C.

reactant | 3,5-dihydroxy-4-methylphenol | OC=1C=C(C=C(C1C)O)O | C7H8O3
reactant | ethyl 1-benzyl-4-oxo-3-piperidinecarboxylate hydrochloride | Cl.C(C1=CC=CC=C1)N1CC(C(CC1)=O)C(=O)OCC
product | 3-Benzyl-8,10-dihydroxy-9-methyl-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one hydrochloride | Yield 24% | Cl.C(C1=CC=CC=C1)N1CC2=C(CC1)C=1C(=C(C(=CC1OC2=O)O)C)O | InChI=1S/C20H19NO4.ClH/c1-12-16(22)9-17-18(19(12)23)14-7-8-21(11-15(14)20(24)25-17)10-13-5-3-2-4-6-13;/h2-6,9,22-23H,7-8,10-11H2,1H3;1H
